* NGSPICE file created from ip_pixel_frame_right_parax.ext - technology: gf180mcuD

.subckt ip_pixel_frame_right_parax reset read vsubs
D0 vsubs read diode_nd2ps_06v0 pj=2u area=0.25p
D1 vsubs reset diode_nd2ps_06v0 pj=2u area=0.25p
C0 read vsubs 0.64605f
C1 reset vsubs 0.64591f
.ends

