** sch_path: /foss/designs/ttgf-analog-openschnapp/xschem/ip_pixel_frame_right.sch
.subckt ip_pixel_frame_right read reset vsubs
*.PININFO read:I reset:I vsubs:B
D1 vsubs reset diode_nd2ps_03v3 area='5u * 5u ' pj='2*5u + 2*5u '
D2 vsubs read diode_nd2ps_03v3 area='5u * 5u ' pj='2*5u + 2*5u '
.ends
